US06162417
N-(tert-Butoxycarbonyl)-2(S)-phenylglycinbromide (14).
To a stirred solution of N-(tert-butoxycarbonyl)-2(S)-phenylglycinol (1.67 g, 7.0 mmol) and carbon tetrabromide (5.0 g, 15 mmol) in 35 mL of anhydrous ether was added a solution of triphenylphosphine (4.09 g, 15.4 mmol) in 25 mL of anhydrous ether at 0° C. The reaction mixture was stirred at room temperature for 12 h. The ether suspension was filtered with a sintered glass funnel containing a bed of celite. The ether filtrate was concentrated under reduced pressure to give a crude product. Flash chromatography (silica gel, 0.2% MeOH, 0.004% Et3N, 40% methylene chloride in hexane) afforded 1.68 g of product (80% yield) as a white solid, mp 108-109° C. 1H NMR (CDCl3) δ 1.431 (s, 9H, tert-Bu) 3.664 (s, 2H, BrCH2), 5.001 (s, 1H, NH), 5.272 (d, 1H, J=7.8 Hz, benzyl), 7.25-7.38 (m, 5H, aryl); 13C NMR (CDCl3) δ 28.24 (CH3) 37.00 (BrCH2), 54.80 (CMe3), 79.98 (NCH), 126.35 (aromatic), 127.88, 128.59, 139.40, 154.91.

reactant | N-(tert-butoxycarbonyl)-2(S)-phenylglycinol | 7.0 mmol, 1.67 g | C(C)(C)(C)OC(=O)N[C@H](CO)C1=CC=CC=C1 | C13H19NO3
reactant | carbon tetrabromide | 15 mmol, 5.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 15.4 mmol, 4.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | MeOH | CO | CH4O
solvent | ether | 35 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | N-(tert-Butoxycarbonyl)-2(S)-phenylglycinbromide | 1.68 g, 80% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)Br)C1=CC=CC=C1 | C13H16BrNO3
